US06818644B1
a. tert.butyl 4-(6-bromo-pyridin-2-yl)-piperazine-1-carboxylate
A solution of 4 g (16.88 mmol) of 2,6-dibromopyridine, 3.14 g (16.88 mmol) of tert.butyl piperazine-1-carboxylate and 5.89 ml (33.77 mmol) of N,N-diisopropylethylamine in 30 ml of n-butanol is refluxed for eight hours. The solvent is then distilled off. Purification is by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate=2:1).

reactant | 2,6-dibromopyridine | 16.88 mmol, 4 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | tert.butyl piperazine-1-carboxylate | 16.88 mmol, 3.14 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 33.77 mmol, 5.89 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
product | tert.butyl 4-(6-bromo-pyridin-2-yl)-piperazine-1-carboxylate | BrC1=CC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrN3O2
